US07968725B2
f) 2-[2,6-Bis-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid
A solution of 2-[2,6-bis-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester (250 mg, 0.5 mmol) in NaOH (1N, 1 mL) and THF (5 mL) was stirred at 40° C. overnight. The mixture was cooled to room temperature, acidified with 10% citric acid, and extracted with CH2Cl2 (3×). The organic layer was washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by chromatography (5-25% ethyl acetate in CH2Cl2) to give the product as a white solid (190 mg, 78%). 1H NMR (300 MHz, CDCl3) δ 8.23 (d, J=8.29 Hz, 4H), 7.68-7.83 (m, 6H), 3.85 (t, J=7.72 Hz, 1H), 2.05-2.17 (m, 1H), 1.79 (dt, J=7.06, 13.75 Hz, 1H), 1.53-1.64 (m, 1H), 0.98 (d, J=6.40 Hz, 6H). MS m/e 482.2 (M+H).

reactant | 2-[2,6-bis-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester | 0.5 mmol, 250 mg | COC(C(CC(C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C26H23F6NO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[2,6-Bis-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid | 190 mg, 78% | FC(C1=CC=C(C=C1)C1=NC(=CC(=C1)C(C(=O)O)CC(C)C)C1=CC=C(C=C1)C(F)(F)F)(F)F | C25H21F6NO2
